US07642249B2
To a solution of lithium diisopropylamide in tetrahydrofuran/n-heptane/ethylbenzene (1.8 M, 17 mL) at 0° C. is added a solution of 2-(3-bromo-phenyl)-propionic acid (3 g, 13.9 mmol) in tetrahydrofuran (5 mL) dropwise during 15 minutes. The mixture is stirred for 1 hour, followed by addition of methyl iodide (4.93 g, 34.8 mmol) in tetrahydrofuran (5 mL) dropwise during 10 min. The reaction mixture is stirred for 15 hours, quenched with 2 N HCl, concentrated in vacuo, and diluted with ether (150 mL). The ether layer is washed with 2 N HCl, extracted three times with 2 N NaOH (50 mL). The combined NaOH layers are acidified with 6 N HCl to pH=1 and extracted three times with ether (75 mL). The combined organic layers are washed with brine, dried over sodium sulfate and concentrated to obtain 2-(3-bromo-phenyl)-2-methyl-propionic acid as a solid (3.08 g, 91%), which is used without further purification. LC/MS: 243 (M+H).

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-(3-bromo-phenyl)-propionic acid | 13.9 mmol, 3 g | BrC=1C=C(C=CC1)C(C(=O)O)C | C9H9BrO2
reactant | methyl iodide | 34.8 mmol, 4.93 g | CI | CH3I
solvent | tetrahydrofuran n-heptane ethylbenzene | 1.8 M, 17 mL | O1CCCC1.CCCCCCC.C(C)C1=CC=CC=C1
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(3-bromo-phenyl)-2-methyl-propionic acid | 3.08 g, 91% | BrC=1C=C(C=CC1)C(C(=O)O)(C)C | C10H11BrO2
